US09259426B2
Synthesis of 6-chloro-2,4-diamino-quinazoline
A mixture of 2-amino-5-chlorobenzonitrile (1.07 g, 7.0 mmol), chloroformamidine hydrochloride (1.6 g, 14 mmol), sulfolane (0.5 ml) and dimethylsulfone (3 g) was heated at 165° C. for 30 minutes. Then, water (30 ml) was added to the reaction mixture. The pH was adjusted to 7-8 by the addition of a 33% aqueous ammonia solution in water. The precipitate was collected by filtration, washed with water and dried over P2O5, yielding the title compound as a yellowish solid (1.35 g, yield: 99%) which was characterized by its mass spectrum as follows: MS (m/z): 195 ([M+H]+, 100).

reactant | 2-amino-5-chlorobenzonitrile | 7.0 mmol, 1.07 g | NC1=C(C#N)C=C(C=C1)Cl | C7H5ClN2
reactant | chloroformamidine hydrochloride | 14 mmol, 1.6 g | Cl.ClC(=N)N
reactant | sulfolane | 0.5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | dimethylsulfone | 3 g | CS(=O)(=O)C | C2H6O2S
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | 6-chloro-2,4-diamino-quinazoline | 1.35 g, yield: 99% | ClC=1C=C2C(=NC(=NC2=CC1)N)N | C8H7ClN4
